US07696195B2
5f) (R)-1-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 35 mg (0.07 mmol) (R)-1-carboxy-2-(2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate, 25 mg (0.08 mmol) TBTU, 11 μL (0.08 mmol) triethylamine and 14 mg (0.08 mmol) 1-methyl-4-piperidin-4-yl-piperazine in 1 mL DMF was stirred overnight at RT. The reaction mixture was purified by HPLC, the fractions containing the product were combined and lyophilised.

reactant | (R)-1-carboxy-2-(2,3-dihydro-1,4-benzodioxin-6-yl)-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.07 mmol, 35 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@H](CC1=CC3=C(OCCO3)C=C1)C(=O)O)C=CC=C2 | C26H29N3O7
reactant | TBTU | 0.08 mmol, 25 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.08 mmol, 11 μL | C(C)N(CC)CC | C6H15N
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 0.08 mmol, 14 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(2,3-dihydro-1,4-benzodioxin-6-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC3=C(OCCO3)C=C1)C=CC=C2 | C36H48N6O6
